US08119671B2
Process 1; Production of N-thiocarbamoyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoic acid amide
To a solution of 1.0 g of 4-(5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl)-2-methylbenzoyl chloride synthesized in Process 4 of Synthetic Example 1 in 20 mL of tetrahydrofuran, 245 mg of potassium thiocyanate was added and the resultant mixture was stirred at 40° C. for 1 hour. Next, the reaction mixture was left to be cooled to room temperature and 5 mL of concentrated ammonia water was added to the reaction mixture, followed by continuing the stirring of the mixture for another 30 minutes. After the completion of the reaction, 20 mL of water was added to the reaction mixture to dilute the mixture and the diluted reaction mixture was extracted with 40 mL of ethyl acetate, followed by distilling off the solvent under reduced pressure. The resultant residue was purified by silica gel column chromatography eluting with ethyl acetate-hexane (1:1) to obtain 0.9 g of the objective substance as a colorless resin-state substance.

reactant | 4-(5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl)-2-methylbenzoyl chloride | 1.0 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)Cl)C=C1)C)C(F)(F)F | C18H11Cl3F3NO2
reactant | potassium thiocyanate | 245 mg | [S-]C#N.[K+]
reactant | ammonia water | 5 mL | O.N
reactant | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-thiocarbamoyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoic acid amide | C(N)(=S)NC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C19H14Cl2F3N3O2S
